US04929613
4-[3-(Acetylamino)cyclopentyl]-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester.
A solution of 20.5 g (50 mmol) of 4-[3-(acetylamino)cyclopentyl]-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester, in 100 ml of absolute ethanol was cooled to 10° and 3.4 g (60 mmole) of cyclopropylamine was added dropwise maintaining the temperature below 15° with an ice bath. After the addition was complete, the reaction was stirred at 5°-10° for 1.5 hours and then at room temperature for 1 hour. The resulting suspension was chilled to 5° and the solid removed by filtration and washed with ethanol and then hexane. The combined filtrate and washings were evaporated in vacuo and the residue was recrystallized from pentane to give 16.1 g of the title compound.

reactant | 4-[3-(acetylamino)cyclopentyl]-α-(ethoxymethylene)-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 50 mmol, 20.5 g | C(C)(=O)NC1CC(CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=COCC)=O)F | C21H25F2NO5
reactant | cyclopropylamine | 60 mmole, 3.4 g | C1(CC1)N | C3H7N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[3-(Acetylamino)cyclopentyl]-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropanoic acid, ethyl ester | 16.1 g | C(C)(=O)NC1CC(CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=CNC1CC1)=O)F | C22H26F2N2O4
